US07166625B2
3-[2-(2,4-Dihydroxyphenyl)-2-oxoethyl]-4,5-dimethylthiazolium bromide
The neat mixture of 2-bromo-2′,4′-dihydroxyacetophenone (3 g, 13 mmol) and 4,5-dimethylthiazole (1.71 g, 13.3 mmol) was heated at 110° C. for 3 hrs. It was dissolved in acetonitrile (15 mL) and cooled to room temperature. Tert-butyl methyl ether (5 mL) was added and the reaction mixture kept at room temperature overnight. The product crystallized was filtered, washed well with a mixture of acetonitrile and tert-butyl methyl ether (1:1, v/v) and dried. It was recrystallized from a mixture of methanol and a few drops of water. Yield: 2.5 g (50%); mp. 257–260° C. (dec.).

reactant | 2-bromo-2′,4′-dihydroxyacetophenone | 13 mmol, 3 g | BrCC(=O)C1=C(C=C(C=C1)O)O | C8H7BrO3
reactant | 4,5-dimethylthiazole | 13.3 mmol, 1.71 g | CC=1N=CSC1C | C5H7NS
reactant | Tert-butyl methyl ether | 5 mL | COC(C)(C)C | C5H12O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-[2-(2,4-Dihydroxyphenyl)-2-oxoethyl]-4,5-dimethylthiazolium bromide | [Br-].OC1=C(C=CC(=C1)O)C(C[N+]1=CSC(=C1C)C)=O | InChI=1S/C13H13NO3S.BrH/c1-8-9(2)18-7-14(8)6-13(17)11-4-3-10(15)5-12(11)16;/h3-5,7H,6H2,1-2H3,(H-,15,16,17);1H
